US09102591B2
2,3-dichloro-N-(2-(4-chlorophenyl)-2-(tetr ahydro-2H-pyran-4-yl)ethyl)benz amide
From 2,3-dichlorobenzoic acid and 2-(4-chlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine. LCMS (MH+): m/z=412.1, tR (minutes, Method G)=2.49

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4-chlorophenyl)-2-(tetrahydro-2H-pyran-4-yl)ethanamine | ClC1=CC=C(C=C1)C(CN)C1CCOCC1 | C13H18ClNO
product | 2,3-dichloro-N-(2-(4-chlorophenyl)-2-(tetr ahydro-2H-pyran-4-yl)ethyl)benz amide | ClC1=C(C(=O)NCC(C2CCOCC2)C2=CC=C(C=C2)Cl)C=CC=C1Cl | C20H20Cl3NO2
